US07399775B2
2-[3-[(4-Chlorophenyl)sulfonyl]-3-(2,5-difluorophenyl)propoxy]ethanol
In methanol (10 ml) was dissolved 2-[1-[(4-chlorophenyl)sulfonyl]-3-(2-vinyloxyethoxy)propyl]-1,4-difluorobenzene (123 mg, 0.295 mmol). P-toluenesulfonic acid monohydrate (2.0 mg, 0.011 mmol) was added and the mixture was stirred at room temperature for 4 hours. After concentration under reduced pressure, the residue was purified by silica gel chromatography (methylene chloride:methanol=50:1) to yield a white solid. The resulting white solid was washed with hexane, whereby the title compound (80 mg, 70%) was obtained as a white powder.

reactant | 2-[1-[(4-chlorophenyl)sulfonyl]-3-(2-vinyloxyethoxy)propyl]-1,4-difluorobenzene | 0.295 mmol, 123 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(CCOCCOC=C)C1=C(C=CC(=C1)F)F | C19H19ClF2O4S
solvent | methanol | 10 ml | CO | CH4O
product | 2-[3-[(4-Chlorophenyl)sulfonyl]-3-(2,5-difluorophenyl)propoxy]ethanol | ClC1=CC=C(C=C1)S(=O)(=O)C(CCOCCO)C1=C(C=CC(=C1)F)F | C17H17ClF2O4S
